US07834014B2
5-[1-(2,6-Dichloro-benzyl)-hexahydro-pyrrolo[3,4-b]pyrrol-5-yl]-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine
Tert-butyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate (0.3 mmol; see U.S. Pat. No. 5,071,999) dissolved in 2 mL of CH3CN along with 0.3 mmol of 2,6-dichlorobenzyl chloride and 0.5 mmol of Et3N. The reaction mixture was stirred at room temperature for 18 hours. It was then diluted with EtOAc, washed with brine, dried with Na2SO4, and concentrated under reduced pressure. The resulting residue was dissolved in 2 mL of 25% TFA in CH2Cl2 and allowed to stand at room temperature for 3 hours. It was then concentrated to dryness. The resulting residue was dissolved in 3 mL of CH3CN along with 0.3 mmol of 2-furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine (see J. Chem. Soc. Perkin Trans. 1, 801 (1995)) and 0.8 mmol of Et3N. The reaction mixture was stirred at reflux for 3 hours. It was then concentrated and purified by preparative HPLC to afford the title compound. 1H NMR (400 Hz, DMSO-d6) δ 8.20 (brs, 1H), 7.8 (d, J=1.0 Hz, 1H), 7.30 (d, J=3.6 Hz, 1H), 7.1-7.30 (m, 3H) 6.60 (dd, J=3.6, 1.0 Hz, 1H), 4.80 (brs, 2H), 2.30-3.8 (m, 10H). MS m/z: 472 [M+H]+.

reactant | Tert-butyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate | C12NCCC2CN(C1)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 2,6-dichlorobenzyl chloride | 0.3 mmol | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | Et3N | 0.5 mmol | CCN(CC)CC | C6H15N
reactant | 2-furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | 0.3 mmol | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)S(=O)(=O)C)=N1 | C9H8N6O3S
reactant | Et3N | 0.8 mmol | CCN(CC)CC | C6H15N
solvent | CH3CN | 2 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 5-[1-(2,6-Dichloro-benzyl)-hexahydro-pyrrolo[3,4-b]pyrrol-5-yl]-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | ClC1=C(CN2C3C(CC2)CN(C3)C3=NC=2N(C(=N3)N)N=C(N2)C=2OC=CC2)C(=CC=C1)Cl | C21H20Cl2N8O
